US07842324B2
Methyl 2-(4-bromophenyl)-2-methylpropanoate (1.29 ml, 5 mmol) was added to 30 ml of 1M aq. NaOH and the mixture was stirred at 60° C. overnight. The solution was acidified with 6M aq. HCl (pH 2) and extracted with EtOAc. The organic extract was washed with brine, dried over MgSO4 and concentrated on vacuum. The crude 2-(4-bromophenyl)-2-methylpropanoic acid was coupled without further purification with 2-methylpropan-1-amine (0.5 ml, 5 mmol) in presence of EDC (1.1 g, 5.5 mmol) and HOBt (675 mg, 5 mmol) in 8 ml of DMF at rt overnight. The mixture was dried down on vacuum and extracted with EtOAc and washed with saturated NaHCO3, 10% citric acid and brine. Organic extracts were dried over MgSO4 and concentrated on vacuum to give 2-(4-bromophenyl)-N-isobutyl-2-methylpropanamide as a white solid (1.4 g, 94%). (M+H, 298).

reactant | Methyl 2-(4-bromophenyl)-2-methylpropanoate | 5 mmol, 1.29 ml | BrC1=CC=C(C=C1)C(C(=O)OC)(C)C | C11H13BrO2
reactant | NaOH | 1M, 30 ml | [OH-].[Na+]
reactant | HCl | 6M, pH 2 | Cl | ClH
reactant | 2-(4-bromophenyl)-2-methylpropanoic acid | BrC1=CC=C(C=C1)C(C(=O)O)(C)C | C10H11BrO2
reactant | 2-methylpropan-1-amine | 5 mmol, 0.5 ml | CC(CN)C | C4H11N
reactant | EDC | 5.5 mmol, 1.1 g
reactant | HOBt | 5 mmol, 675 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 2-(4-bromophenyl)-N-isobutyl-2-methylpropanamide | 1.4 g, 94% | BrC1=CC=C(C=C1)C(C(=O)NCC(C)C)(C)C | C14H20BrNO
